US05232929
Under a nitrogen atmosphere in a round bottom flask were placed 500 mg (1.9 mmol) of 5-amino-4,6-diphenyl-2-oxopiperidine and 5 mL of methanol. To the system was added 1 g of 3 A molecular sieves, and the pH of the mixture was adjusted to 4.5 using methanol saturated with hydrogen chloride. To this system was added 284 mg (2.1 mmol) of 2-methoxybenzaldehyde, and the mixture was stirred at room temperature overnight. The mixture was filtered through diatomaceous earth (Celite (trademark)), the filter cake was rinsed well with methanol and the filtrate was concentrated with a rotary evaporator. The residue was partitioned between saturated aqueous sodium bicarbonate and chloroform, the layers were separated and the aqueous phase was extracted with three portions of chloroform. The combined chloroform extracts were dried (sodium sulfate) and concentrated, and the residue was subjected to flash column chromatography (30 g of silica gel) using 3:97 methanol/chloroform as the eluant to obtain 115 mg of 4,6-diphenyl-5-(2-methoxybenzylamino)-2-oxopiperidine.

reactant | 5-amino-4,6-diphenyl-2-oxopiperidine | 1.9 mmol, 500 mg | NC1C(CC(NC1C1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H18N2O
reactant | hydrogen chloride | Cl | ClH
reactant | 2-methoxybenzaldehyde | 2.1 mmol, 284 mg | COC1=C(C=O)C=CC=C1 | C8H8O2
solvent | methanol | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 4,6-diphenyl-5-(2-methoxybenzylamino)-2-oxopiperidine | 115 mg | C1(=CC=CC=C1)C1CC(NC(C1NCC1=C(C=CC=C1)OC)C1=CC=CC=C1)=O | C25H26N2O2
